US08466167B2
Tert-butyl 2-chloro-5-(methoxymethyl)phenylcarbamate (from the previous step) (1.0 eq.), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (3.0 eq.), Pd2dba3 (2.5%), XPhos (10%), and KOAc (3 eq.) were mixed in dioxane (0.2 M) under N2 atmosphere. The reaction was heated to 110° C. and stirred overnight. The resulting suspension was cooled to ambient temperature, diluted with ether, filtered through celite, and the filtrate was concentrated en vaccuo. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-20% EtOAc/Hexanes to give tert-butyl 5-(methoxymethyl)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate as a white foam.

reactant | Tert-butyl 2-chloro-5-(methoxymethyl)phenylcarbamate | ClC1=C(C=C(C=C1)COC)NC(OC(C)(C)C)=O | C13H18ClNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 3.0 eq. | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | XPhos | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | KOAc | 3 eq. | CC(=O)[O-].[K+]
solvent | dioxane | 0.2 M | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
catalyst | Pd2dba3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 5-(methoxymethyl)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | COCC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)B1OC(C(O1)(C)C)(C)C | C19H30BNO5
